US05177075
3,4-Dihydro-5-methyl-1(2H)-isoquinolinethione
To 0.15 g of 60% sodium hydride (3.70 mmol) which was washed with n-hexane and suspended in 15 ml of THF was added dropwise at 0 a solution of 0.50 g (2.82 mmol) of 3,4-dihydro-5,6-dihydroxy-1(2H)-isoquinolinethione in 5 ml of THF. The thick white suspension which formed was stirred for 0.5 hours at 0°-5° and then 0.45 g (2.82 mmol) of methyl iodide in 5 ml THF was added and stirring continued for one hour. The resulting yellow solution was diluted with ether, washed with saturated NaCl, dried (Na2SO4), and concentrated. The resulting oil was recrystallized from 1 ml of n-hexane to give pale yellow crystals, 0.55 g (100%); mp 43°-45°.

reactant | sodium hydride | 3.70 mmol, 0.15 g | [H-].[Na+]
reactant | 3,4-dihydro-5,6-dihydroxy-1(2H)-isoquinolinethione | 2.82 mmol, 0.50 g | OC1=C2CCNC(C2=CC=C1O)=S | C9H9NO2S
reactant | methyl iodide | 2.82 mmol, 0.45 g | CI | CH3I
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3,4-Dihydro-5-methyl-1(2H)-isoquinolinethione | CC1=C2CCNC(C2=CC=C1)=S | C10H11NS
